US08207134B2
7) Synthesis of 1-benzenesulfonyl-6-bromo-5-(1-methoxy-1-methyl-ethoxymethyl)-1H-indole
Under a nitrogen stream, to a solution of (1-benzenesulfonyl-6-bromo-1H-indol-5-yl)methanol (234 mg, 0.64 mmol) and pyridinium p-toluenesulfonate (4 mg, 0.02 mmol) in THF (0.7 mL) was added 2-methoxypropene (92 μL, 0.96 mmol) under ice cooling, and the resultant mixture was stirred at the same temperature for 1 hour. To the reaction mixture was added saturated aqueous potassium carbonate. The resultant mixture was then twice extracted with ethyl acetate. The organic layer was dried (anhydrous magnesium sulfate). Solvent was then removed by distillation under reduced pressure, to thereby obtain the titled compound (277 mg, 99%).

reactant | (1-benzenesulfonyl-6-bromo-1H-indol-5-yl)methanol | 0.64 mmol, 234 mg | C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=CC(=C(C=C12)Br)CO | C15H12BrNO3S
reactant | 2-methoxypropene | 0.96 mmol, 92 μL | COC(=C)C | C4H8O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 0.7 mL | C1CCOC1 | C4H8O
catalyst | pyridinium p-toluenesulfonate | 0.02 mmol, 4 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
product | 1-benzenesulfonyl-6-bromo-5-(1-methoxy-1-methyl-ethoxymethyl)-1H-indole | 277 mg, 99% | C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=CC(=C(C=C12)Br)COC(C)(C)OC | C19H20BrNO4S
